* --- Macro Definition for a Single NAND Gate ---
.SUBCKT NAND_GATE A B Y VCC GND
C_InA A GND 3pF
C_InB B GND 3pF
R_InA A GND 10Meg
R_InB B GND 10Meg

* Core NAND logic calculation
B_Logic Internal_Node GND V={ if(V(A) > (V(VCC)/2) & V(B) > (V(VCC)/2), 0, V(VCC)) }

* RC Delay network (10ns time constant)
R_Delay Internal_Node Output_Delayed 1k
C_Delay Output_Delayed GND 10pF

* FIXED OVERSHOOT: Drive an internal node, breaking the algebraic feedback loop
B_Output Y_Internal GND V={V(Output_Delayed)}

* FIXED OVERSHOOT: 50 Ohm resistor is now correctly in series between internal logic and external pin Y
R_Out Y_Internal Y 50
.ENDS NAND_GATE


* --- Main 14-Pin NAND-Gate IC Subcircuit (74HC00) ---
* Defined with literal pin numbers matching standard physical DIP/SOIC packages
.SUBCKT 74HC00 1 2 3 4 5 6 7 8 9 10 11 12 13 14

* Mapping literal pins to the internal gates (Pin 14 = VCC, Pin 7 = GND)
* Pin assignments follow standard 74HC00 datasheets:
* Gate 1: 1A (Pin 1), 1B (Pin 2), 1Y (Pin 3)
* Gate 2: 2A (Pin 4), 2B (Pin 5), 2Y (Pin 6)
* Gate 3: 3Y (Pin 8), 3A (Pin 9), 3B (Pin 10)
* Gate 4: 4Y (Pin 11), 4A (Pin 12), 4B (Pin 13)

X_Gate1 1 2 3 14 7 NAND_GATE
X_Gate2 4 5 6 14 7 NAND_GATE
X_Gate3 9 10 8 14 7 NAND_GATE
X_Gate4 12 13 11 14 7 NAND_GATE

.ENDS 74HC00