* --- Macro Definition for a Single NAND Gate ---
* (Defined completely on its own first)
.SUBCKT NAND_GATE A B Y VCC GND
C_InA A GND 3pF
C_InB B GND 3pF
R_InA A GND 10Meg
R_InB B GND 10Meg

* Fixed logic calculation to prevent the 2.5V error
B_Logic Internal_Node GND V={ if(V(A) > (V(VCC)/2) & V(B) > (V(VCC)/2), 0, V(VCC)) }

R_Delay Internal_Node Output_Delayed 1k
C_Delay Output_Delayed GND 10pF

B_Output Y GND V={V(Output_Delayed)}
R_Out Y Output_Delayed 50
.ENDS NAND_GATE


* --- Main 14-Pin IC Subcircuit Definition ---
.SUBCKT 74HC00 1A 1B 1Y 2A 2B 2Y GND 3Y 3A 3B 4Y 4A 4B VCC

* Instantiation of the four internal gates mapping to the 14-pin layout
X_Gate1 1A 1B 1Y VCC GND NAND_GATE
X_Gate2 2A 2B 2Y VCC GND NAND_GATE
X_Gate3 3A 3B 3Y VCC GND NAND_GATE
X_Gate4 4A 4B 4Y VCC GND NAND_GATE

.ENDS 74HC00