*===================================================================
* CUSTOM BYPASS SPICE MODEL FOR CD4066BE (14-PIN SEQUENTIAL MAPPING)
* Designed for macOS KiCad to eliminate 'ivlng.so' digital crashes.
* This model forces all 4 transmission gates to be permanently ON 
* (Ron = 100 ohms) and isolates control pins with 1GΩ dummy loads.
*===================================================================
* Pin Order: 1  2  3  4  5  6  7  8  9  10 11 12 13 14
.SUBCKT CD4066BE 1  2  3  4  5  6  7  8  9  10 11 12 13 14

* --- SWITCH A (Pins 1 & 2) ---
Ra 1 2 100

* --- SWITCH B (Pins 4 & 3) ---
Rb 4 3 100

* --- SWITCH C (Pins 8 & 9) ---
Rc 8 9 100

* --- SWITCH D (Pins 11 & 10) ---
Rd 11 10 100

* --- CONTROL & POWER PINS DUMMY LOADS ---
* This links floating/tester select pins to VSS (Pin 7) 
* through a massive 1 Giga-ohm resistance. It satisfies the SPICE 
* matrix math so it won't crash, without affecting your circuit.
R5  5  7 1G
R6  6  7 1G
R12 12 7 1G
R13 13 7 1G
R14 14 7 1G

.ENDS CD4066BE