* LM358 Dual Op-Amp Subcircuit
* Two independent op-amp units sharing VCC and GND
* Unit A: INP1, INN1, OUT1
* Unit B: INP2, INN2, OUT2
* VCC = positive supply
* GND = ground

.SUBCKT LM358 INP1 INN1 OUT1 INP2 INN2 OUT2 VCC GND

* Op-Amp Unit A
* High gain differential amplifier model
Rin1 INP1 INN1 1G
Eout1 OUT1_INT 0 VALUE {
+ LIMIT(100000 * (V(INP1) - V(INN1)),
+ V(GND) + 0.02,
+ V(VCC) - 0.02)}
Rout1 OUT1_INT OUT1 50

* Op-Amp Unit B
* High gain differential amplifier model
Rin2 INP2 INN2 1G
Eout2 OUT2_INT 0 VALUE {
+ LIMIT(100000 * (V(INP2) - V(INN2)),
+ V(GND) + 0.02,
+ V(VCC) - 0.02)}
Rout2 OUT2_INT OUT2 50

.ENDS LM358
