* LM235 Temperature Sensor Subcircuit
* Vout = 2.98V at 25 degrees celsius

.SUBCKT LM235 ANODE CATHODE ADJ

* Simple voltage source modeling sensor output
Vtemp CATHODE ANODE DC 2.98

* ADJ pin tied through large resistor
Radj ADJ ANODE 1G

.ENDS LM235
